US05145850
Production of 6-[(4-sulfamoylmethylcyclohexane-1-yl) methyloxy]imidazo[1,2-b]pyridazine hydrochloric acid salt
A mixture of (4-hydroxymethylcyclohexane-1-yl) methanesulfonamide (0.58 g), sodium hydride (0.23 g), 6-chloroimidazo[1,2-b]pyridazine (0.43 g) and dimethylformamide (20 ml) was stirred for 3 hours at 85° -90° C. The reaction solution was concentrated under reduced pressure and the residue was poured into water (20 ml). The mixture was adjusted to pH 7.0 with 1 N-hydrochloric acid. The precipitated crystals were collected by filtration and recrystallized from a mixture of ethanol and ethyl ether to afford the above-identified compound (0.44 g).

reactant | (4-hydroxymethylcyclohexane-1-yl) methanesulfonamide | 0.58 g | OCC1CCC(CC1)CS(=O)(=O)N | C8H17NO3S
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | 6-chloroimidazo[1,2-b]pyridazine | 0.43 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-[(4-sulfamoylmethylcyclohexane-1-yl) methyloxy]imidazo[1,2-b]pyridazine hydrochloric acid salt | 0.44 g | Cl.S(N)(=O)(=O)CC1CCC(CC1)COC=1C=CC=2N(N1)C=CN2 | InChI=1S/C14H20N4O3S.ClH/c15-22(19,20)10-12-3-1-11(2-4-12)9-21-14-6-5-13-16-7-8-18(13)17-14;/h5-8,11-12H,1-4,9-10H2,(H2,15,19,20);1H
